US05492908
Preparation of N-(2-methylsulfonylamino-5-trifluoromethyl-3-pyridyl)-4-fluorobenzamide (Compound No. 10) (1) 4.4 g of methanesulfonamide was dissolved in 70 ml of dry tetrahydrofuran, and 1.9 g of 60% sodium hydride was added thereto under cooling with ice. After completion of the addition, the mixture was reacted for one hour under reflux. After cooling, 7.0 g of 2-chloro-3-nitro-5-trifluoromethylpyridine was added thereto, and the mixture was reacted for 6 hours under reflux. After completion of the reaction, the reaction product was poured into 300 ml of water and washed with ethyl ether. Then, the aqueous layer was weakly acidified with dilute hydrochloric acid. Precipitated crystals were collected by filtration and dried to obtain 5.8 g of N-(3-nitro-5-trifluoromethyl-2-pyridyl)methanesulfonamide having a melting point of from 138° to 139° C.

reactant | N-(2-methylsulfonylamino-5-trifluoromethyl-3-pyridyl)-4-fluorobenzamide | CS(=O)(=O)NC1=NC=C(C=C1NC(C1=CC=C(C=C1)F)=O)C(F)(F)F | C14H11F4N3O3S
reactant | methanesulfonamide | 4.4 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | 2-chloro-3-nitro-5-trifluoromethylpyridine | 7.0 g | ClC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | N-(3-nitro-5-trifluoromethyl-2-pyridyl)methanesulfonamide | 5.8 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)NS(=O)(=O)C | C7H6F3N3O4S
